US06187786B1
1,1′-Carbonyldiimidazole (41 g) was added portionwise at room temperature to a mixture of 2-amino-5-bromo-3-nitro-benzoic acid (55 g) in DCM (700 ml). The mixture was stirred at room temperature for 1 hour. N-methoxy-methanamine hydrochloride (24.6 g) was added. The mixture was stirred at room temperature overnight and hydrolized with water. The precipitate was filtered off and the filtrate was decanted. The organic layer was dried, filtered and the solvent was evaporated till dryness. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/ethyl acetate 98/2). The pure fractions were collected and the solvent was evaporated. The precipitate was taken up in HCl 3N (250 ml). The mixture was stirred at room temperature for 4 hours. The precipitate was filtered off, washed with water and dried, yielding 23 g of 2-amino-5-bromo-N-methoxy-N-methyl-3-nitrobenzamide (interm. 55, mp. 129° C.)

reactant | 1,1′-Carbonyldiimidazole | 41 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-5-bromo-3-nitro-benzoic acid | 55 g | NC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Br | C7H5BrN2O4
reactant | N-methoxy-methanamine hydrochloride | 24.6 g | Cl.CONC
reactant | water | O | H2O
solvent | DCM | 700 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-5-bromo-N-methoxy-N-methyl-3-nitrobenzamide | 23 g | NC1=C(C(=O)N(C)OC)C=C(C=C1[N+](=O)[O-])Br | C9H10BrN3O4
